US07829707B2
(d) 3-[(6-Ethoxy-pyridin-2-ylmethyl)-amino]-1H-pyrrole-2-carboxylic acid ethyl ester
Acetic acid (0.3 mL) was added to 6-ethoxy-pyridine-2-carbaldehyde (0.59 g, 3.9 mmol) and 3-amino-1H-pyrrole-2-carboxylic acid ethyl ester (0.30 g, 1.9 mmol) in ethanol (10 mL). After 1.5 h, NaCNBH3 (0.24 g, 3.9 mmol) was added, and the resulting mixture was stirred at ambient temperature for 19 h. The solvent was removed in vacuo, ethyl acetate was added to the residue, and insoluble material was removed by filtration. The filtrate was concentrated and the crude product was purified by flash column chromatography (heptane/ethyl acetate gradient; 0 to 35% ethyl acetate), obtaining 0.25 g (45%) of the title product as a solid.

reactant | Acetic acid | 0.3 mL | C(C)(=O)O | C2H4O2
reactant | 6-ethoxy-pyridine-2-carbaldehyde | 3.9 mmol, 0.59 g | C(C)OC1=CC=CC(=N1)C=O | C8H9NO2
reactant | 3-amino-1H-pyrrole-2-carboxylic acid ethyl ester | 1.9 mmol, 0.30 g | C(C)OC(=O)C=1NC=CC1N | C7H10N2O2
reactant | NaCNBH3 | 3.9 mmol, 0.24 g | [BH3-]C#N.[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3-[(6-Ethoxy-pyridin-2-ylmethyl)-amino]-1H-pyrrole-2-carboxylic acid ethyl ester | 0.25 g, 45% | C(C)OC(=O)C=1NC=CC1NCC1=NC(=CC=C1)OCC | C15H19N3O3
